US05760021
A mixture of 1 g of 2-hydroxy-2-phosphono-3-(2-pyridinyl)propanoic acid and 0.5 g of palladium on charcoal catalyst in 50 ml of distilled water is hydrogenated on a Parr apparatus at 40 PSI for about 2 days. The catalyst is removed by filtration, and the filtrate is concentrated to a few mls. Ethanol is added slowly to precipitate a solid, which is recrystallized from water/ethanol to afford 2-hydroxy-3-(2-piperidinyl)-2-phosphonopropanoic acid.

reactant | 2-hydroxy-2-phosphono-3-(2-pyridinyl)propanoic acid | 1 g | OC(C(=O)O)(CC1=NC=CC=C1)P(=O)(O)O | C8H10NO6P
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | water | 50 ml | O | H2O
product | 2-hydroxy-3-(2-piperidinyl)-2-phosphonopropanoic acid | OC(C(=O)O)(CC1NCCCC1)P(=O)(O)O | C8H16NO6P
